US06384041B1
To a solution of 5.17 g (13.9 mmol) of [[2-(methylthio)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 100 mL of chloroform was added 3.64 mL of oxalyl chloride followed by 1.66 mL of pyridine. The reaction was stirred for 3 days at ambient temperature then poured into a solution prepared from 11 mL of concentrated ammonium hydroxide and 40 mL of water. The reaction was partitioned by the addition of 45 mL of water and 150 mL of methylene chloride. The organic phase was washed with 40 mL of water, dried with sodium sulfate, and concentrated to 5.90 g of yellow solid. The solid was first purified by flash chromatography (500 g of silica, ethyl acetate) and the product obtained was then slurried in 100 mL of methyl tert-butyl ether to provide 3.70 g (60%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a yellow solid. nmr (500 MHz, CDCl3) δ1.12 (t, J=7.5 Hz, 3H), 2.52 (s, 3H), 2.91 (q, J=7.5 Hz, 2H), 3.78 (s, 3H), 5.02 (s, 2H), 5.46 (s, 2H), 5.66 (s, 1H), 6.56 (s, 1H), 7.16.(d, J=6.9 Hz, 2H), 7.28 (m, 3H)

reactant | [[2-(methylthio)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 13.9 mmol, 5.17 g | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC=CC=C2)=O | C19H21N3O3S
reactant | oxalyl chloride | 3.64 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 1.66 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | 11 mL | [OH-].[NH4+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methyl tert-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 40 mL | O | H2O
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 3.70 g, 60% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)=O | C21H22N4O5S
